US07312225B2
5a) Production of N-[3-(2-Chloro-5-cyano-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide
125 mg (0.27 mmol) of 2-chloro-4-[3-(3-nitro-benzenesulfonylamino)-propylamino]-pyrimidine-5-carboxylic acid-tert-butylamide is mixed with 4 ml of thionyl chloride and stirred under reflux for 19 hours. The reaction mixture is concentrated by evaporation. It is mixed with water and toluene and evaporated to the dry state in a rotary evaporator. 110 mg (0.27 mmol, corresponding to 100% of theory) of the product is obtained.

reactant | 2-chloro-4-[3-(3-nitro-benzenesulfonylamino)-propylamino]-pyrimidine-5-carboxylic acid-tert-butylamide | 0.27 mmol, 125 mg | C(C)(C)(C)NC(=O)C=1C(=NC(=NC1)Cl)NCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H23ClN6O5S
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | N-[3-(2-Chloro-5-cyano-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide | ClC1=NC=C(C(=N1)NCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C14H13ClN6O4S
